Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ CABG x2(LIMA-LAD,SVG-OM) 

 
History of Present Illness:
___ year old man with hyperlipidemia and GERD/hiatal hernia 
reports about one year of feeling fatigued/low energy. He has 
also experienced intermittent episodes of chest burning that is 
felt across the entire chest, occurring   with exertion, 
resolving with rest. These episodes are unpredictable and do not
consistently occur, happening about ___ times per month. He also 
feels slightly more short of breath with exercise as compared to 
prior years. A stress echo in ___ showed possible ischemia 
involving the distal inferoseptum and possibly distal inferior 
wall. He has been treated with imdur, aspirin and a statin and 
is now being referred for coronary angiography.

 
Past Medical History:
1. Hypercholesterolemia
2. GERD, hiatal hernia
3. H. Pylori s/p treatment
4. Asthma as a child
5. Insomnia
6. Prior bone fractures

 
Social History:
___
Family History:
Half-brother has had PCI in his ___, s/p AVR and CABG in his 
___. Grandfather was thought to have had a heart attack in his 
___.

 
Physical Exam:
Discharge PE:
Physical Exam

Pulse:73 Resp:20  O2 sat:93/RA
B/P: 101/65
Height:6'1"     Weight:95.3 kg preop, 99.1kg postop

General:NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Sternum: stable, healing well, C/D/I
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema: 1+BLE [x], LLE 
healing well
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+   Left:2+
___           Right: 2+   Left:2+
Radial       Right: 2+   Left:2+

 
Pertinent Results:
___ ECHO
PRE BYPASS The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
The right ventricle displays normal free wall contractility. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. There are simple atheroma in the aortic 
arch. The descending thoracic aorta is mildly dilated. There are 
simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is no pericardial effusion. Dr. 
___ was notified in person of the results in the 
operating room at the time of the study. 

POST BYPASS There is normal biventricular systolic function. 
Valvular function is unchanged from the pre-bypass exam. The 
thoracic aorta is intact after decannulation

CXR ___:
IMPRESSION:   
As compared to the previous radiograph, there is unchanged 
evidence of minimal bilateral atelectatic changes at the lung 
bases. No new parenchymal opacities. The lateral radiograph 
reveals a minimal right pleural effusion.  No other relevant 
change.  Normal alignment of sternal wires. Unchanged position 
of the right internal jugular vein catheter. 

LABS:
___ 04:14AM BLOOD WBC-7.1 RBC-3.86* Hgb-11.8* Hct-36.0* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-11.9 Plt ___
___ 03:35AM BLOOD WBC-9.3 RBC-4.12* Hgb-12.7* Hct-38.6* 
MCV-94 MCH-30.7 MCHC-32.8 RDW-12.2 Plt ___
___ 02:20AM BLOOD ___ PTT-25.5 ___
___ 04:14AM BLOOD Glucose-104* UreaN-14 Creat-0.9 Na-137 
K-4.6 Cl-101 HCO3-32 AnGap-9
___ 03:35AM BLOOD Glucose-110* UreaN-15 Creat-1.0 Na-138 
K-4.1 Cl-102 HCO3-32 AnGap-8
___ 03:35AM BLOOD Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for surgical 
management of his coronary artery disease. He was taken to the 
operating room on the same day where he underwent coronary 
artery bypass grafting to two vessels. Please see the operative 
note for details. Postoperatively he was taken to the intensive 
care unit for monitoring. Over the next several hours, he awoke 
neurologically intact and was extubated. On postoperative day 
one, he was transferred to the step down unit for further 
recovery. His epicardial wires and chest tubes were removed per 
protocol. He was gently diuresed towards his preoperative 
weight. The physical therapy service was consulted for 
assistance in his postoperative strength and recovery. He 
continued to make steady progress and was discharged home on 
postoperative day four.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO BID 
3. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
4. Lorazepam 1 mg PO DAILY 
5. Simvastatin 40 mg PO DAILY 
6. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
3. Simvastatin 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 3 
hours as needed Disp #*50 Tablet Refills:*0
6. Lorazepam 1 mg PO DAILY 
7. Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
8. Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Hypercholesterolemia
2. GERD, hiatal hernia
3. H. Pylori s/p treatment
4. Asthma as a child
5. Insomnia
6. Prior bone fractures

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. Edema 1+

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
5) No lifting more than 10 pounds for 10 weeks
6) Please call with any questions or concerns ___

*Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___